US04625036
A solution of 2-chloromethyl-2-(2-fluoro-4-trifluoromethylphenyl)oxirane (6 g.) in tert-butyl alcohol was treated with sodium 1,2,4-triazole (2.7 g.) and heated at 100° for 1 hour. The mixture was evaporated and the residual gum partitioned between ethyl acetate and water. the organic layer was washed with water, dried and evaporated to dryness. The residual gum was chromatographed on K60 silica gel using chloroform/petroleum ether (b.p. 60°-80°) 1:1 v/v and chloroform as eluting solvents to give 2-(2-fluoro-4-trifluoromethylphenyl)-2-(1,2,4-triazol-1-ylmethyl)oxirane, as a gum with NMR data as follows:

reactant | 2-chloromethyl-2-(2-fluoro-4-trifluoromethylphenyl)oxirane | 6 g | ClCC1(OC1)C1=C(C=C(C=C1)C(F)(F)F)F | C10H7ClF4O
reactant | sodium 1,2,4-triazole | 2.7 g | N1N=CN=C1.[Na]
solvent | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
product | 2-(2-fluoro-4-trifluoromethylphenyl)-2-(1,2,4-triazol-1-ylmethyl)oxirane | FC1=C(C=CC(=C1)C(F)(F)F)C1(OC1)CN1N=CN=C1 | C12H9F4N3O
